Square Wave 8.2ms (Transient)

Vsource 2 0 PULSE(0 5 0 1n 1n 4.1m 8.2m)
R1 1 0 820
C1 2 1 1u

.tran 10u 25m

.control
    run
    wrdata sq3_trans.txt v(1) v(2)
.endc

.end
